US07906546B2
17.140 g (0.123 mol) of aminoacetic acid ethyl ester hydrochloride and 15.175 g (0.123 mol, 1 eq) of acetimidic acid ethyl ester hydrochloride were stirred in solution in 300 mL ice cold water. 200 mL diethyl ether and then 16.97 g (0.123 mol, 1 eq) K2CO3 were added. The reaction mixture was stirred for 10 minutes. The organic phase was separated and dried over Na2SO4, filtered and evaporated to dryness to yield to 15.229 g (72%) of (1-ethoxy-ethylideneamino)-acetic acid ethyl ester as a light yellow oil.

reactant | aminoacetic acid ethyl ester hydrochloride | 0.123 mol, 17.140 g | Cl.C(C)OC(CN)=O
reactant | acetimidic acid ethyl ester hydrochloride | 0.123 mol, 15.175 g, 1 eq | Cl.C(C)OC(C)=N
reactant | K2CO3 | 0.123 mol, 16.97 g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | (1-ethoxy-ethylideneamino)-acetic acid ethyl ester | 15.229 g, 72% | C(C)OC(CN=C(C)OCC)=O | C8H15NO3
